US05661160
Synthesis of 3-Isopropoxy-phenyl-acetyl chloride
Combine 3-isopropoxy-phenyl-acetic acid (0.5 g, 2.6 mmol) and dichloromethane (5 mL). Cool to -5° C. using a ice-salt bath. Add 2 drops of dimethylformamide followed by dropwise addition of oxalyl chloride (0.34 g, 2.7 mmol). after 1 hour, warm the reaction mixture to ambient temperature. After 2 hours, evaporate the reaction mixture in vacuo to give the title compound as a liquid.

reactant | 3-isopropoxy-phenyl-acetic acid | 2.6 mmol, 0.5 g | C(C)(C)OC=1C=C(C=CC1)CC(=O)O | C11H14O3
reactant | oxalyl chloride | 2.7 mmol, 0.34 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-Isopropoxy-phenyl-acetyl chloride | C(C)(C)OC=1C=C(C=CC1)CC(=O)Cl | C11H13ClO2
